US04873236
9-Chloro-11-[[[2-[4-[4-(diethylamino)butyl]-piperidin-l-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 109 from 11-[[[2-bromo-ethyl]amino]carbonyl]-9-chloro-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 4-[4-(diethylamino)butyl]piperidine, but using dimethylformamide instead of acetonitrile, in a yield of 19% of theory. Colourless crystals, m.p. 157° C.

reactant | 11-[[[2-bromo-ethyl]amino]carbonyl]-9-chloro-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | BrCCNC(=O)N1C2=C(NC(C3=C1C=C(C=C3)Cl)=O)C=CC=N2 | C15H12BrClN4O2
reactant | 4-[4-(diethylamino)butyl]piperidine | C(C)N(CCCCC1CCNCC1)CC | C13H28N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-Chloro-11-[[[2-[4-[4-(diethylamino)butyl]-piperidin-l-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 19% | ClC1=CC2=C(C(NC3=C(N2C(=O)NCCN2CCC(CC2)CCCCN(CC)CC)N=CC=C3)=O)C=C1 | C28H39ClN6O2
